US06011159
To a solution of 1-(4-bromo-2-hydroxy-phenyl)-propan-1-one (20.0 g, 87.3 mmol) in dichloromethane (100 mL) was added triethylamine (24.3 mL, 174 mmol). The resulting solution was cooled to 0° C. and methanesulfonyl chloride (8.10 mL, 105 mmol) was added dropwise. The reaction was stirred for 30 minutes, poured into 1N aqueous hydrochloric acid (100 mL) and the layers were separated. The aqueous layer was extracted with dichloromethane (50 mL), the organic layers were combined, dried over magnesium sulfate, filtered, and concentrated to an oil which crystallized upon standing. The solid was recrystallized from a 60/40 mixture of ethanol and water (40 mL) to provide methanesulfonic acid 5-bromo-2-propionyl-phenyl ester (21.8 g, 81% yield). 1H NMR (400 MHz, CDCl3) δ 1.17 (t, 3, J=7.3), 2.90 (q, 2, J=7.3), 3.24 (s, 3), 7.51-7.56 (m, 2), 7.59 (d, 1, J=1.3). 13C NMR (100 MHz, CDCl3) δ 8.04, 35.45, 38.51, 128.18, 127.08, 130.60, 130.69, 131.82, 146.15, 200.30. IR 3049, 2940, 1691, 1590, 1343, 959, 886 cm-1. Analysis calculated for C10H12BrO4S: C, 39.10; H, 3.61. Found: C, 38.90; H, 3.70.

reactant | 1-(4-bromo-2-hydroxy-phenyl)-propan-1-one | 87.3 mmol, 20.0 g | BrC1=CC(=C(C=C1)C(CC)=O)O | C9H9BrO2
reactant | triethylamine | 174 mmol, 24.3 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 105 mmol, 8.10 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | methanesulfonic acid 5-bromo-2-propionyl-phenyl ester | 21.8 g, 81% yield | BrC=1C=CC(=C(C1)OS(=O)(=O)C)C(CC)=O | C10H11BrO4S
